US08492582B2
1-(tert-Butoxycarbonyl)-4-hydroxypiperidine (0.15 g), triphenylphosphine (0.21 g), and diisopropyl azodicarboxylate (0.16 mL) were added to a tetrahydrofuran (3.6 mL) suspension of methyl 2-(2,4-dihydroxybenzamido)-4-phenylbenzoate (0.24 g), followed by stirring at room temperature for 1 hour. 1-(tert-Butoxycarbonyl)-4-hydroxypiperidine (0.066 g), triphenylphosphine (0.086 g), and diisopropyl azodicarboxylate (0.064 mL) were added to the reaction mixture, followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography [eluent: 100-75% hexane/ethyl acetate] to obtain 0.050 g of tert-butyl 4-(3-hydroxy-4-(2-(methoxycarbonyl)-5-phenylphenylcarbamoyl)phenoxy)piperidine-1-carboxylate as a white solid.

reactant | 1-(tert-Butoxycarbonyl)-4-hydroxypiperidine | 0.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 0.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.16 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | methyl 2-(2,4-dihydroxybenzamido)-4-phenylbenzoate | 0.24 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)O | C21H17NO5
reactant | 1-(tert-Butoxycarbonyl)-4-hydroxypiperidine | 0.066 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 0.086 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.064 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 3.6 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(3-hydroxy-4-(2-(methoxycarbonyl)-5-phenylphenylcarbamoyl)phenoxy)piperidine-1-carboxylate | 0.050 g | OC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1C(NC1=C(C=CC(=C1)C1=CC=CC=C1)C(=O)OC)=O | C31H34N2O7
